US05206240
1'-(2-Phenylethyl)-7,8-dihydro-8-oxospiro[6H-1,3-dioxolo[4,5-g][1]benzopyran-6,4'-piperidine] hydrochloride
Pyrrolidine (83 ml, 71 mg, 1 mmol) was added to a mixture of 1-(6-hydroxy-1,3-benzodioxol-5-yl)ethanone [prepared as described by K. Fukui and M. Nakayama, Bull. Chem. Soc. Jap., 1963, 37, 300.](180 mg, 1 mmol) in methanol (1 ml). The mixture was stirred for 10 minutes, then 1-(2-phenylethyl)-4-piperidinone (203 mg, 1 mmol) in methanol (1 ml) was added and the mixture was heated under reflux for 1.5 hours. The mixture was cooled, the solvent was evaporated under reduced pressure and aqueous sodium hydrogen carbonate (saturated, 20 ml) was added. The mixture was extracted with dichloromethane (3×20 ml) and the combined organic fractions were dried (Na2SO4) and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with CH2Cl2 /MeOH/NH3 (Aq.) (98:2:0.2) to give a yellow glass which was suspended in ethanol (5 ml) and treated with ethanolic HCl (6N, 0.5 ml). The mixture was stirred for 1 hour, cooled and the precipitate was collected and dried in vacuo to give the title compound as a white solid (153 mg, 38%), m.p. >285° C.

reactant | Pyrrolidine | 1 mmol, 83 ml, 71 mg | N1CCCC1 | C4H9N
reactant | 1-(6-hydroxy-1,3-benzodioxol-5-yl)ethanone | 1 mmol, 180 mg | OC=1C(=CC2=C(OCO2)C1)C(C)=O | C9H8O4
reactant | 1-(2-phenylethyl)-4-piperidinone | 1 mmol, 203 mg | C1(=CC=CC=C1)CCN1CCC(CC1)=O | C13H17NO
reactant | HCl | 6N, 0.5 ml | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
solvent | methanol | 1 ml | CO | CH4O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1'-(2-Phenylethyl)-7,8-dihydro-8-oxospiro[6H-1,3-dioxolo[4,5-g][1]benzopyran-6,4'-piperidine] hydrochloride | 153 mg, 38% | Cl.C1(=CC=CC=C1)CCN1CCC2(CC1)OC1=C(C(C2)=O)C=C2C(=C1)OCO2 | InChI=1S/C22H23NO4.ClH/c24-18-14-22(27-19-13-21-20(12-17(18)19)25-15-26-21)7-10-23(11-8-22)9-6-16-4-2-1-3-5-16;/h1-5,12-13H,6-11,14-15H2;1H
